US04025537
A mixture of 3.41 g (0.02 mole) ethyl 2-acetyl-2-pentenoate and 3.57 g (0.02 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 2 hours. After cooling, the succinimide was removed by filtration and the solution concentrated in vacuo. Distillation gave 2.8 g (83%) of ethyl 2,5-dimethyl-3-furoate, bp 96 °-100° C. (18 mm).

reactant | ethyl 2-acetyl-2-pentenoate | 0.02 mole, 3.41 g | C(C)(=O)C(C(=O)OCC)=CCC | C9H14O3
reactant | N-bromosuccinimide | 0.02 mole, 3.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2,5-dimethyl-3-furoate | 2.8 g, 83% | CC=1OC(=CC1C(=O)OCC)C | C9H12O3
